US06265411B1
Sodium hydride (36 mg, 1.5 mmol) was added in portions to a solution of 7-benzyloxyoxindole (360 mg, 1.5 mmol) in THF (8 ml), the mixture was stirred for 30 minutes at ambient temperature and a solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (204 mg, 0.6 mmol), (prepared as described for the starting material in Example 5), in THF (4 ml) and DMF (1.5 ml) was added. The mixture was stirred for 30 minutes at ambient temperature followed by 1.5 hours at 65° C. The THF was removed by evaporation, the mixture was partitioned between ethyl acetate and water and the aqueous layer was adjusted to pH8 with 2M hydrochloric acid. The precipitated product was collected by filtration, washed with water, ethyl acetate, and ether, and dried under vacuum to give 4-(7-benzyloxyoxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (190 mg, 58%).

reactant | Sodium hydride | 1.5 mmol, 36 mg | [H-].[Na+]
reactant | 7-benzyloxyoxindole | 1.5 mmol, 360 mg | C(C1=CC=CC=C1)OC=1C=CC=C2CC(NC12)=O | C15H13NO2
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.6 mmol, 204 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 4-(7-benzyloxyoxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 190 mg, 58% | C(C1=CC=CC=C1)OC=1C=CC=C2C(C(NC12)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C31H32N4O5
